US05013749
(±)-(E)-1-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-1,5-hexadien-3-ol
To a solution of (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal (430 mg) in dry THF (7 ml) at 0° under nitrogen, allylmagnesium chloride (2M in THF, 0.86 ml) was added. The mixture was stirred for 2.5 h at 0° and then quenched with saturated aqueous ammonium chloride. Extraction with ether (4×) gave, after drying and rotary-evaporation, the crude product (466 mg). FCC eluting with 20% then 30% System A afforded the title product (331.9 mg) as a white solid. Rf 0.41 (System A 1:1); νmax (CHBr3) 3587 cm-1 (OH).

reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 430 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
reactant | allylmagnesium chloride | 2M, 0.86 ml | C(C=C)[Mg]Cl
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | (±)-(E)-1-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-1,5-hexadien-3-ol | 331.9 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)\C=C\C(CC=C)O)C(C)C | C24H24F2N2O
